US08349851B2
A suspension of ethyl 7-iodo-4-oxo-3,4-dihydroquinazoline-2-carboxylate (1.0 g, 2.90 mmol) in phosphorus oxychloride (10 mL) was heated at 110° C. under argon for 12 h. The reaction mixture was cooled to rt and concentrated under reduced pressure. The residue was purified by column chromatography using silica gel eluting with 30% EtOAc/hexanes to afford ethyl 4-chloro-7-iodoquinazoline-2-carboxylate as a white solid (0.510 g, 48%). 1H NMR (300 MHz, DMSO-d6) δ 1.32 (t, 3H), 4.48 (q, 2H), 7.88 (d, 1H), 7.92 (d, 1H), 8.25 (s, 1H); LC-MS (ESI) m/z 363 (M+H)+.

reactant | ethyl 7-iodo-4-oxo-3,4-dihydroquinazoline-2-carboxylate | 2.90 mmol, 1.0 g | IC1=CC=C2C(NC(=NC2=C1)C(=O)OCC)=O | C11H9IN2O3
reactant | phosphorus oxychloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 4-chloro-7-iodoquinazoline-2-carboxylate | 0.510 g, 48% | ClC1=NC(=NC2=CC(=CC=C12)I)C(=O)OCC | C11H8ClIN2O2
